* Testcase 000166 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VINn INn 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VINp INp 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VIN1 IN1 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VIN2 IN2 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)

* Circuit
C2 INn OP 1p
C1 INp OM 1p
C4 INn IN1 1p
C3 INp IN2 1p



VAC_IN OM 0 DC 0 AC 1

.control
set filetype=ascii

op
let power_dc = abs(i(VINn)) * 1.8
print power_dc

ac dec 100 1 100g

let vmag = vm(OP)
let vdb = db(vmag)

* Gain at key frequencies
meas ac gain_1khz_db FIND vdb AT=1e3
meas ac gain_1mhz_db FIND vdb AT=1e6
meas ac gain_1ghz_db FIND vdb AT=1e9

* Try to find 3dB bandwidth
meas ac max_gain MAX vdb
meas ac bw_3db_hz WHEN vdb='max_gain-3' CROSS=1

print gain_1khz_db gain_1mhz_db gain_1ghz_db bw_3db_hz

quit
.endc

.end
